US08372840B2
v) N-Benzyl-N-[3-(2-oxo-imidazolidin-1-yl)-phenyl]-benzenesulfonamide (1)
A solution of 1-(3-benzylamino-phenyl)-imidazolidin-2-one (25 mg, 0.1 mmol), benzenesulphonyl chloride (39 μl, 31 mmol) and pyridine (27 μl, 34 mmol) in dry dichloromethane (1 ml) was heated to reflux for 15 hrs. The reaction mixture was then cooled to room temperature, quenched with water (10 ml) and extracted with dichloromethane (3×7 ml). The organic extracts were combined, dried (magnesium sulphate) and concentrated in vacuo. The crude residue was purified by preparative TLC (eluent 1:1 ethyl acetate:dichloromethane) to afford the title compound as a off white solid (9 mg, 24%). HPLC retention time 8.8 mins. Mass spectrum (ES+) m/z 425 (M+NH4).

reactant | 1-(3-benzylamino-phenyl)-imidazolidin-2-one | 0.1 mmol, 25 mg | C(C1=CC=CC=C1)NC=1C=C(C=CC1)N1C(NCC1)=O | C16H17N3O
reactant | benzenesulphonyl chloride | 31 mmol, 39 μl | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | pyridine | 34 mmol, 27 μl | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | N-Benzyl-N-[3-(2-oxo-imidazolidin-1-yl)-phenyl]-benzenesulfonamide | C(C1=CC=CC=C1)N(S(=O)(=O)C1=CC=CC=C1)C1=CC(=CC=C1)N1C(NCC1)=O | C22H21N3O3S
